US08106045B2
To a solution of N-(4-((2S)-4-((1R)-1-phenylethyl)morpholin-2-yl)phenyl)-pyridin-2-amine (0.89 g, 2.5 mmol) and ammonium formate (0.78 g, 12.5 mmol) in tetrahydrofuran (15ml)-methanol (24 ml)-water (18 ml) was added 10% palladium on carbon (wet, 200 mg) and the mixture was stirred at 95° C. for one hour. After filtration, the solvent was removed in vacuo and the residue was partitioned between water and dichloromethane. The organic layer was dried over anhydrous sodium sulfate and the solvent was concentrated under reduced pressure to yield N-(4-((2S)-Morpholin-2-yl)phenyl)pyridin-2-amine (0.60 g, 94%) as a yellow oil.

reactant | N-(4-((2S)-4-((1R)-1-phenylethyl)morpholin-2-yl)phenyl)-pyridin-2-amine | 2.5 mmol, 0.89 g | C1(=CC=CC=C1)[C@@H](C)N1C[C@@H](OCC1)C1=CC=C(C=C1)NC1=NC=CC=C1 | C23H25N3O
reactant | ammonium formate | 12.5 mmol, 0.78 g | C(=O)[O-].[NH4+]
reactant | methanol | 24 ml | CO | CH4O
reactant | water | 18 ml | O | H2O
solvent | tetrahydrofuran | 15ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
product | N-(4-((2S)-Morpholin-2-yl)phenyl)pyridin-2-amine | 0.60 g, 94% | N1C[C@@H](OCC1)C1=CC=C(C=C1)NC1=NC=CC=C1 | C15H17N3O
